US06747052B2
3-Chlorobenzo[b]thiophene-2-carboxylic Acid (4-Nitrobenzylidene)-hydrazide
A solution of 3-chlorobenzo[b]thiophene-carboxylic acid hydrazide (34 mg, 0.15 mmol) and p-nitrobenzaldehyde (23 mg, 0.15 mmol) in ethanol (10 mL) was refluxed for 6 h. The precipitate was collected by filtration and washed with ethanol, dried to give 36 mg (67%) of the title compound. 1H NMR (DMSO-d6): 12.40 (bs, 1H), 8.60−7.60 (m, 9H).

reactant | 3-chlorobenzo[b]thiophene-carboxylic acid hydrazide | 0.15 mmol, 34 mg | ClC=1C2=C(SC1C(=O)NN)C=CC=C2 | C9H7ClN2OS
reactant | p-nitrobenzaldehyde | 0.15 mmol, 23 mg | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-Chlorobenzo[b]thiophene-2-carboxylic Acid (4-Nitrobenzylidene)-hydrazide | 36 mg, 67% | [N+](=O)([O-])C1=CC=C(C=NNC(=O)C2=C(C3=C(S2)C=CC=C3)Cl)C=C1 | C16H10ClN3O3S
